US05346920
To a solution of 0.5 g (1.73 mmol) of 2-chloro-4-(3-trifluoromethylphenoxy)phenol in 20 ml of N,N-dimethylfomamide, there are added 0.29 g (1.90 mmol) of ethyl 2-chloroethylcarbamate and 0.53 g (3.81 mmol) of potassium carbonate with stirring, and the resultant mixture is heated at 50° C. for 7 hours. The reaction mixture is poured into 100 g of ice-water and extracted twice with 100 ml of ethyl acetate. The extracts are combined together, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel chromatography to give ethyl 2-[2-chloro-4-(3-trifluoromethylphenoxy)phenoxy]ethylcarbamate.

reactant | 2-chloro-4-(3-trifluoromethylphenoxy)phenol | 1.73 mmol, 0.5 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)O | C13H8ClF3O2
reactant | ethyl 2-chloroethylcarbamate | 1.90 mmol, 0.29 g | ClCCNC(OCC)=O | C5H10ClNO2
reactant | potassium carbonate | 3.81 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl 2-[2-chloro-4-(3-trifluoromethylphenoxy)phenoxy]ethylcarbamate | ClC1=C(OCCNC(OCC)=O)C=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F | C18H17ClF3NO4
